US07071340B2
973 mg (3.575 mmol) of triphenylphosphine are added under argon to 1.118 g (3.25 mmol) of 5-acetyl-2-{[2-(iodomethyl)-2-propenyl]oxy}benzaldehyde in solution in 30 ml of acetonitrile. The medium is brought to reflux and is stirred for 14 hours. After cooling the solution, 0.743 ml (3.25 mmol) of a 25% solution of sodium methoxide in methanol is added. The medium is stirred at ambient temperature for 3 hours and then water is added. After concentrating the solution under vacuum, dichloromethane is added. The phases are then separated and the aqueous phase is extracted with dichloromethane. The combined organic phases are washed, are then dried and are finally concentrated under vacuum. The crude reaction product is purified by chromatography on silica gel (ethyl acetate/heptane 10/90) to give 377 mg (58%) of 1-(3-methylene-2,3-dihydro-1-benzoxepin-7-yl)ethanone in the form of a white solid; 1H NMR (300 MHz, CDCl3): 7.86 (d, J=2.1 Hz, 1H), 7.75 (dd, J=2.1 Hz and 8.4 Hz, 1H), 7.03 (d, J=8.4 Hz, 1H), 6.51 (d, J=11.7 Hz, 1H), 6.38 (d, J=11.7 Hz, 1H), 5.28 and 5.11 (2s, 2H), 4.61 (s, 2H), 2.56 (s, 3H).

reactant | triphenylphosphine | 3.575 mmol, 973 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 5-acetyl-2-{[2-(iodomethyl)-2-propenyl]oxy}benzaldehyde | 3.25 mmol, 1.118 g | C(C)(=O)C=1C=CC(=C(C=O)C1)OCC(=C)CI | C13H13IO3
reactant | sodium methoxide | C[O-].[Na+]
reactant | water | O | H2O
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
solvent | methanol | CO | CH4O
product | 1-(3-methylene-2,3-dihydro-1-benzoxepin-7-yl)ethanone | 377 mg, 58% | C=C1COC2=C(C=C1)C=C(C=C2)C(C)=O | C13H12O2
